// RLC bandpass filter - Spectre netlist
simulator lang=spectre
global 0

// Power supply
vdd (vdd 0) vsource type=dc dc=1.8

// Input pulse
vin (in 0) vsource type=pulse val0=0 val1=1.8 delay=1n rise=500p fall=500p width=691.1503837897544n period=1382.3007675795088n

// RLC bandpass filter
l1 (in mid) inductor l=0.00022
r1 (mid out) resistor r=5241
c1 (out 0) capacitor c=2.2e-12

// Analysis - timestep fine enough for LC oscillation
tran tran stop=1382.3007675795088n errpreset=moderate maxstep=2n

// Save outputs
save in out
